US07053107B2
(2-Acetylamino-4-chloro-phenyl)-acetic acid methyl ester
An argon filled flask was charged with (4-Chloro-2-nitro-phenyl)-acetic acid methyl ester (40 g, 175 mmol), 10% Pd/C (2.5 g), acetic anhydride (64 mL, 677 mmol), water (9 mL) and acetic acid (150 mL). The flask was vacuum flushed with hydrogen gas at 30 PSI and shook vigorously. After 2 hours, more 10% Pd/C (2 g) was added, and the reaction was complete after a total of 4 hours reaction time. The 10% Pd/C was removed by filtration, and the solvent was removed by rotary evaporation.

reactant | (4-Chloro-2-nitro-phenyl)-acetic acid methyl ester | 175 mmol, 40 g | COC(CC1=C(C=C(C=C1)Cl)[N+](=O)[O-])=O | C9H8ClNO4
reactant | acetic anhydride | 677 mmol, 64 mL | C(C)(=O)OC(C)=O | C4H6O3
reactant | water | 9 mL | O | H2O
catalyst | Pd/C | 2.5 g | [Pd] | Pd
solvent | acetic acid | 150 mL | C(C)(=O)O | C2H4O2
product | (2-Acetylamino-4-chloro-phenyl)-acetic acid methyl ester | COC(CC1=C(C=C(C=C1)Cl)NC(C)=O)=O | C11H12ClNO3
